US09334269B2
Synthesis of 5-amino-2-hydroxy-N-methylbenzamide
To a flask charged with 2-(benzyloxy)-N-methyl-5-nitrobenzamide (176 mg, 1.061 mmol) was added MeOH (4 mL). The resulting suspension was thoroughly purged with nitrogen prior to the addition of 10% Pd/C (12 mg, 0.046 mmol). The reaction mixture was purged with H2 gas, and then stirred under at atmosphere of hydrogen overnight. The reaction mixture was filtered through Celite® (diatomaceous earth) and the filtrate dried under reduced pressure. The resulting 5-amino-2-hydroxy-N-methylbenzamide (90 mg, 99% crude yield) was used in next step without further purification.

reactant | 2-(benzyloxy)-N-methyl-5-nitrobenzamide | 1.061 mmol, 176 mg | C(C1=CC=CC=C1)OC1=C(C(=O)NC)C=C(C=C1)[N+](=O)[O-] | C15H14N2O4
catalyst | Pd/C | 0.046 mmol, 12 mg | [Pd] | Pd
solvent | MeOH | 4 mL | CO | CH4O
product | 5-amino-2-hydroxy-N-methylbenzamide | NC=1C=CC(=C(C(=O)NC)C1)O | C8H10N2O2
